Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Intraparenchymal Hemorrhage

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Time (and date) the patient was last known well: ___ 

___ Stroke Scale Score: 23
t-PA given: No Reason t-PA was not given or considered: ___
Thrombectomy performed: [] Yes [x] No 
If no, reason thrombectomy was not performed or considered: ___

The NIHSS was performed: 
Date: ___
Time: 1830
(within 6 hours of patient presentation or neurology consult) 
 
___ Stroke Scale score was : 24
1a. Level of Consciousness: 3
1b. LOC Question: 2
1c. LOC Commands: 2
2. Best gaze: 0
3. Visual fields: 2
4. Facial palsy: 0
5a. Motor arm, left: 4
5b. Motor arm, right: 4
6a. Motor leg, left: 2
6b. Motor leg, right: 2
7. Limb Ataxia: U
8. Sensory: U
9. Language: 3
10. Dysarthria: U
11. Extinction and Neglect: U

This is an ___ year old woman with severe arthritis, 
hypertension,
and atrial fibrillation on xarelto 15mg daily and aspirin 81 mg
daily who initially presented to OSH with unresponsiveness and
was intubated and transferred to ___ for further management
give extensive IPH.

History obtained by daughter and as per chart review as patient
arrived sedated and intubated. Per daughter, patient was in her
usual state of health up until about three weeks ago, when her
blood pressure was borderline and as such her blood pressure
medication (losartan) was reduced by ___. She then suffered from
higher blood pressure. Over the past week, readings were
reportedly to the 200s. She refused to go to doctor as she hates
health care and did not want to be hospitalized. She was feeling
quite dizzy at this time with hearing loss, per daughter 
"typical
symptoms of hypertension." She had no significant headache or
slurred speech or visual changes or gait instability despite her
dizziness. She did not have a recent fall. She contacted
outpatient PCP on ___ and ___ losartan was increased to 
higher
dose at that time. This morning, the daughter notes that she
thought the patient was starting to feel better. Reportedly, at
around 1PM she pulled the call bell in her elderly living
community. She was initially thought to be responsive but then
had a right-gaze deviation with right-sided weakness followed by
unresponsiveness. EMS was called and she was taken to ___ where
___ demonstrated large right IPH with extension to ___. She 
was
intubated with roconuium, propofol, and fentanyl and given 2000U
K-centra and transferred to ___ for further eval.

BP 200s on arrival to ED, placed on nicardipine gtt initially 
and
given 100mg mannitol during transfer from ___ to ___.

Her family in providing a history is very adamant that the
patient would not have wanted to be intubated and does not want
any extreme measures. She hates health care environments as she
spent much of her life caring for her disabled son, who passed
away several years ago. 

Further review of systems unattainable secondary to intubation.

 
Past Medical History:
atrial fibrillation on xarelto
arthritis
hypertension

 
Social History:
Independent, lives in elderly community (not even assisted
living). 

- Modified Rankin Scale:
[x] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead
 

 
Family History:
non-contributory
 
Physical Exam:
Vitals: Intubated, off sedation for 20 min. BP 140s on
nicardipine gtt

General: Awake, cooperative, NAD.
HEENT: intubated
Pulmonary: good air movement
Cardiac: warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: no eye opening to loud voice or noxious.
-Cranial Nerves: No right corneal, + left corneal. PERRL 1.5>1
and sluggish. No VOR. No facial grimace to noxious. 
-Sensorimotor: withdraws bilateral lower extremities 
anti-gravity
to noxious, initially appeared to be triple-flexion but not 
always in stero-typed manner; no movement of upper extremities 
to noxious

 
Pertinent Results:
Non-Contrast CT of Head: right cerebellar hemorrhage with 
extension into ___, surrounding hypdensity may be consistent 
with edema vs cerebellar infarct that resulted in hemorrhagic 
transformation
 
Brief Hospital Course:
Ms ___ is an ___ year old woman who was previously independent 
who suffered devastating intraparenchymal hemorrhage with 
extension into ___. Etiology of hemorrhage likely related to 
poorly controlled hypertension, although cannot rule out amyloid 
(less likely given independence and old age and relative health) 
or prior infarct presenting as dizziness with appropriate 
auto-regulation of BP leading to sequelae of hemorrhagic 
conversion.

Intial exam was notable for: cough, gag, no VOR, no movement of 
bilateral upper extremities approximately 1.5 hrs after roconium 
was given for extubation. She did withdraw lower extremities in 
non-stereotyped manner. 

Neurosurgery was consulted but she was not felt to be a surgical 
candidate given the devastating nature of her bleed.

Per extensive family discussions, the patient dislikes hospitals 
and health care and would not want to pass with a tube in her 
throat or in a manner that she would consider undignified. Her 
family requested transition to comfort care with palliative 
extubation to fulfill patient's wishes. She was extubated in the 
ED at ___ and admitted to the floor for ___ focused care.

She passed away at 02:08 ___, with her son and daughter in 
law at bedside. The family declined an autopsy. 

The patient expired before I had a chance to evaluate her in 
person.
 
Medications on Admission:
 - Xarelto 15mg tablet, 1 tab PO daily  
 - Digoxin 0.125mg tablet, 1 tab PO daily  
 - Lipitor 10mg tablet, 1 tab PO daily  
 - Diltiazem (Cardizem)120mg cap ER, 1 cap PO daily  
 - Losartan Potassium 50mg tablet, 1 tab PO BID  
 - Aspirin 81mg tablet, 1 tab PO daily  
 - Vit D3, 2000unit tablet, 1 tab PO daily  
 - Vit B-12 1,000mcg tablet, 1 tab PO daily  
 - Omega 3 fatty acid ___ tablet, 1 tab PO BID  
 - multivitamin, 1 tab PO daily  

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Cerebellar hemorrhage
 
Discharge Condition:
Deceased
 
Discharge Instructions:
N/A
 
Followup Instructions:
___